Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___.
 
Chief Complaint:
Decreased PO intake, failure to thrive
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of CAD s/p 
PCI, atrial flutter, DM, PVD and EtOH use who presented with 
lethargy. He was brought in by his caretaker for decreased PO 
intake over the last few weeks. Per the caretaker he has been 
hoarding his food and placing it in the trash as well as old 
cigarette boxes instead of eating it himself. He has also been 
more weak and his physical therapist noted that he was no longer 
able to get himself into the tub. He has not been drinking much 
fluid either. The patient denied recent fever, chills, nausea, 
vomiting, SOB, cough or CP. He denied decreased PO intake.  
  
Of note, the patient has had recurrent hyponatremia over the 
last month with Na ranging 120-125 during this time. He was 
admitted to ___ from ___ for hyponatremia and Na was 122 
at that time. It was attributed to both hypovolemia and his 
lasix. He was given IVF and lasix was held and Na improved to 
125. He was sent home on ___. dose of lasix of 20mg every other 
day. He was then seen in cardiology clinic on ___ and Na was 
again low at 120 and lasix was stopped.  
 
In the ED initial vitals were T 97.4 BP 151/77 HR 76 RR 18 98% 
RA. CXR was performed and showed no acute process. He was given 
2 units regular insulin for ___ 263. He received 1L NS. Labs 
remarkable for Na 123. On arrival to the floor, the patient was 
questioning why he is here. He denies any pain, cough, SOB.  

 
Past Medical History:
# CAD s/p PCI x 2 with a history of MI and angioplasty ___ years 
ago. His most recent cardiac catheterization was in ___ at ___ which revealed non-flow 
limiting three-vessel disease and no intervention was performed 
at that time  
# Atrial flutter/atrial tachycardia status post ablation in 
___ with breakthrough atrial tachycardia and atrial 
flutter  
# DM type II c/b neuropathy  
# PVD followed by Dr. ___  
# Colon Ca -- s/p partial colectomy ___, no radiation or 
chemotherapy  
# Neuropathy -- progressing to R arm now; legs unchanged, uses 
wheelchair  
# Spinal stenosis -- MRI performed ___, no emergent issues, 
but  
some retrolisthesis of L4-5, status post laminectomy at L4-L5.  
# Alcohol abuse  

 
Social History:
___
Family History:
No history of premature cardiac disease. 
 
Physical Exam:
VITAL SIGNS: T 97.4 BP 137/65 HR 70 RR 18 O2 sat 93% RA  
GENERAL: cahchectic, appears older than stated age, pleasant, 
alert, responds appropriately, in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No 
LAD, No thyromegaly.  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___. JVP flat  
LUNGS: crackles at left base, otherwise CTA, no wheezes  
ABDOMEN: NABS. Soft, NT, ND. No HSM  
EXTREMITIES: No edema, muscle atrophy present, 2+ dorsalis 
pedis/ posterior tibial pulses.  
SKIN: No rashes  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. 4+/5 strength throughout.  

 
Pertinent Results:
Admission Labs:
___ 05:20PM BLOOD WBC-7.0 RBC-4.49* Hgb-13.3* Hct-38.3* 
MCV-85 MCH-29.7 MCHC-34.9 RDW-17.0* Plt ___
___ 05:20PM BLOOD Neuts-62.1 ___ Monos-5.7 Eos-4.5* 
Baso-0.7
___ 05:20PM BLOOD Glucose-250* UreaN-11 Creat-0.6 Na-123* 
K-4.3 Cl-89* HCO3-27 AnGap-11
___ 05:20PM BLOOD ALT-10 AST-14 AlkPhos-90 TotBili-0.6
___ 05:20PM BLOOD Calcium-9.3 Phos-4.5 Mg-1.7
___ 05:20PM BLOOD Digoxin-0.7*
___ 05:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:37PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:37PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-150 Ketone-TR Bilirub-NEG Urobiln-4* pH-6.0 Leuks-NEG
___ 10:37PM URINE RBC-35* WBC-3 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 10:37PM URINE CastHy-3*
___ 10:37PM URINE Hours-RANDOM Creat-125 Na-135 K-36 Cl-146
___ 10:37PM URINE Osmolal-625
   
Additional Labs:
___ 08:00AM BLOOD VitB12-523 Folate-GREATER TH
___ 08:00AM BLOOD TSH-1.2
___ 07:50AM BLOOD Cortsol-30.6*
___ 07:35AM BLOOD Cortsol-10.2
___ 07:40AM BLOOD CEA-1.6
___ 07:40AM BLOOD HIV Ab-NEGATIVE
   
Discharge Labs:
___ 07:40AM BLOOD WBC-8.1 RBC-3.75* Hgb-11.5* Hct-32.0* 
MCV-85 MCH-30.6 MCHC-35.8* RDW-17.2* Plt ___
___ 07:40AM BLOOD Glucose-163* UreaN-15 Creat-0.5 Na-135 
K-4.2 Cl-97 HCO3-30 
___ 07:40AM BLOOD Calcium-9.4 Phos-4.2 Mg-2.1  
   
   
Microbiology:
___ 10:37 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
   
___ 4:08 pm SEROLOGY/BLOOD
      ADDED RPR TO ___ @1644 ON ___. 

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
    
___ 3:52 pm SWAB      Source: left hallux. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
   
   
Studies:
___ Sinus rhythm with frequent atrial premature beats versus 
wandering atrial pacemaker. Diffuse non-specific ST-T wave 
abnormalities. Low voltage in the limb leads. Compared to the 
previous tracing of ___ atrial premature beats are more 
frequent. Clinical correlation and repeat tracing are suggested. 

  
___ CXR PA & LAT - FINDINGS: 
The lungs are over-inflated, suggesting COAD. The 
cardiomediastinal 
silhouette is stable. There is no focal pulmonary consolidation. 

CONCLUSION: No acute cardiopulmonary process. 
    
___ MRI HEAD without contrast - FINDINGS: There is no 
evidence of hemorrhage, edema, masses, mass effect, or recent 
infarction. There is extensive periventricular white matter 
hyperintensity on the FLAIR images. The significance of this is 
uncertain.  It is often attributed to chronic small vessel 
ischemia. The most striking observation is profound atrophy of 
the medulla and upper cervical spinal cord. Views of the spinal 
cord are limited to motion degraded images on the sagittal 
views. However, this suggests it may be worthwhile to perform MR 
imaging of the cervical spine. There have been no significant 
changes since the head CT of ___. There is no evidence 
of hydrocephalus.   
There is a tiny focus of hypointensity on the gradient-echo 
images in the 
right cerebral peduncle that may represent an area of old 
hemorrhage. 
CONCLUSION: No evidence of hydrocephalus, recent infarction, or 
hemorrhage.   
Striking atrophy of the medulla and upper cervical spinal cord. 
   
___ Foot AP, Lat, obl x-ray - IMPRESSION: 
1. Fractures of the distal left second, third, and fourth 
metatarsals, which are of indeterminate acuity, ? subacute. 
2. Old healed distal fibular fracture seen at periphery of film. 
See comment. 
3. Severe osteopenia, which limits detection for fractures. 
Allowing for 
this, no other fractures and no dislocation detected.  
  
___ Atrial flutter suggested but may be "coarse" atrial 
fibrillation
Modest nonspecific ST-T wave changes Since previous tracing of 
the same date, probably no significant change.
  
___ Probable atrial flutter with rapid ventricular response
Modest nonspecific ST-T wave changes. Since previous tracing of 
___, tachyarrhythmia now present.
  
___ Sinus rhythm with premature atrial contractions. 
Non-specific intraventricular conduction delay. Non-specific 
ST-T wave changes. Compared to the previous tracing of ___ 
the atrial fibrillation is absent and sinus rhythm and premature 
atrial contractions are now present.
  

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history of CAD, DM, 
aflutter, PVD, EtOH use who presented with decreased PO intake, 
lethargy, and unusual hoarding behavior.  
   
#. Failure to thrive / Depression / Dementia: The patient has 
had a progressive decline with a recent increase in the rate per 
Dr. ___ knows the patient well.  Geriatrics/geripsych was 
consulted to assist with evaluating the patient.  TSH, B12, and 
folate normal were normal. RPR was negative.  HIV test was 
negative.  MRI head showed prominent atrophy of the medulla and 
upper cervical cord.  Neurology was consulted to comment on 
these findings and to evaluate the patient.  They felt the MRI 
findings were related to chronic alcohol use.  Occult malignancy 
was also considered within the differential.  Chest x-ray showed 
no evidence of tumors.  CEA was checked based on the patient's 
history of colon cancer and was also negative.  The patient had 
poor PO intake in the hospital based on nutrition service 
calorie counts.  The medical team spoke with the patient and his 
caregiver at length regarding the importance of sufficient PO 
intake for both calories and to prevent dehydration.  The team 
also stressed the importance of avoiding alcohol.  Ultimately, 
the patient insisted that he wanted to return home instead of 
going to rehab.  Per neurology recommendation, outpatient 
behavioral neurology follow-up was sceduled.  The patient should 
undergo routine age-appropriate cancer screening as an 
outpatient.  Assistance at home with multiple caregivers, 
including ___, OT, & ___ was arranged.  The patient's recently 
started duloxetine was held in the hospital as explained below.  
If anti-depressant therapy is warranted for this patient in the 
future, consideration should be given to using agents other than 
SSRIs or SNRIs that can induce hyponatremia.  Mirtazepine may be 
an option to consider, particularly given its appetite 
stimulating side-effect.  
    
#. Hyponatremia: Hyponatremia has been an ongoing problem for 
the patient over the past month.  His sodium was 123 on 
admission, and improved to 128 with normal saline fluid 
resuscitation (the patient was dehydrated on admission as well). 
 The etiology for his hyponatremia is not entirely clear.  He 
had not been on lasix.  His TSH was normal.  He does not have a 
history of CHF or liver diseas.  He had a PPD placed that was 
also negative and an appropriate cortisol stimulation response.  
His urine osm was > 600 on admission, suggesting he may have 
SIADH.  As mentioned above, no evidence of malignancy was found 
and age-appropriate cancer screening is recommended as an 
outpatient.  The patient's sodium eventually normalized to 135 
on the day of discharge despite receiving no further IV fluids.  
It is hypothesized that his sodium normalized as a result of 
some combination of increased PO intake in the hospital, absence 
of alcohol intake in the hospital ("beer potomania?") and 
cessation of duloxetine (an SNRI) which can induce hyponatremia. 
 
    
#. Urinary retention: The patient was unable to urinate after 
foley removal with PVRs in the 300-600+ range.  It was unclear 
if his urinary retention was chronic or acute and whether it is 
related to neurological issues vs. BPH. vs. other.  Prostate was 
not markedly enlarged on exam, though foley was difficult to 
place per nursing.  The patient was discharged home with a foley 
and scheduled with outpatient urology follow-up for a voiding 
trial and consideration of medications if appropriate.  
   
#. Hematuria: A small number of red blood cells were noted on 
the patient's inital urine analysis that was likely obtained 
after foley placement in the ED.  The patient could not void on 
his own after foley removal, so a second foley was eventually 
placed after several straight caths.  A second UA obtained on 
discharge almomst 48 hours after the second foley was placed 
continued to show hematuria, in fact, worse that what was seen 
on the initial UA.  Given his smoking history, the patient needs 
further evaluation to determine whether hematuria is secondary 
to traumatic foley placement vs. bladder tumor.
   
#. Left foot fractures: The patient was noted to have 
circumferential ecchymoses on his left big toe on admission.  
Foot x-ray was obtained and showed multiple fractures ___ 
through ___ metatarsals).  Podiatry was consulted and 
recommended that the patient be non-weight bearing on his left 
foot and be be given a special shoe.  They also trimmed the 
patient's toe nails.  The patient was continued on calcium and 
vitamin D and home ___ was arranged for the patient as well as 
podiatry follow-up after discharge.
   
#. Atrial fibrillation/flutter with RVR: The patient had nearly 
daily episodes of rapid ventricular rate, often occuring near 
the time of medication administration, but not always.  He 
occasionally required additional PO and IV metoprolol to 
normalize his rate.  He is not on coumadin due to his fall risk. 
 He was continued on digoxin and toward the end of his hospital 
stay his metoprolol was changed from 100mg bid to 75 mg TID to 
try to minimize RVR episodes.
    
#. Diabetes, type 2: The patient's ___ were elevated with 
improved PO intake in the hospital.  Per the patient's friend 
and caretaker his BS have been better controlled at home.  This 
difference seems to be related to both the quantity and type of 
foods being eaten.  The patient's basal rate of glargin 6 units 
QAM was not changed because of concern for hypoglycemia at home 
if the patient's PO intake decreases again on discharge.  He was 
advised to follow-up with his ___ provider.  He was 
given a diabetic diet while in house.
  
#. Anemia: Labs during the patient's prior hospitalization 
suggested that this was related to iron deficiency.  B12 and 
folate were normal.  The patient's iron supplementation was 
doubled.  
  
#. Coronary artery disease: The patient had non-flow limiting 
3VD on cath in ___.  He was continued on aspirin, his statin, 
plavix, and metoprolol.
   
# Alcohol abuse: The patient was placed on a CIWA scale while 
hospitalized, but benzodiazepines were not needed as there was 
no evidence of withdrawal.  He was continued on B-vitamins and a 
multivitamin.  Alcohol intake was discussed at length with the 
patient and his caretaker by multiple members of the medical 
team.  
   
#. Neuropathy: The patient was continued on gabapentin.  
  
 
Medications on Admission:
Atorvastatin 40 mg daily  
Aspirin 325 mg daily  
Clopidogrel 75 mg daily  
Metoprolol Tartrate 100 mg bid  
Digoxin 125 mcg daily  
Gabapentin 300 mg PO Q8H  
Folic Acid 1 mg daily  
Albuterol MDI  
Ferrous Sulfate 325 mg daily  
Insulin Glargine 6 units Subcutaneous at breakfast.  
Novolog SS  
Folic acid  
Ca/Vit D  
B complex vitamins  

 
Discharge Medications:
1. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Albuterol 90 mcg/Actuation Aerosol Sig: One (1)  Inhalation 
every six (6) hours as needed for shortness of breath or 
wheezing.  
8. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO twice a day.  
9. B Complete     Tablet Sig: One (1) Tablet PO once a day.  
10. Calcium 500 With D 500 mg(1,250mg) -400 unit Tablet Sig: One 
(1) Tablet PO twice a day.  
11. Insulin Glargine 100 unit/mL Solution Sig: Six (6) units 
Subcutaneous QAM.  
12. Insulin Lispro 100 unit/mL Solution Sig: as directed  
Subcutaneous QIDACHS: as per sliding scale.  
13. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO 
Q8H (every 8 hours).
Disp:*90 Tablet(s)* Refills:*2*
15. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
16. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
1. Failure to thrive
2. Left second, third, and fourth metatarsal fractures
3. Atrial fibrillation with rapid ventricular rate
4. Urinary retention
5. Hyponatremia

Secondary Diagnoses:
1. Coronary artery disease
2. Diabetes mellitus, type 2 with neuropathy
3. Alcohol abuse

 
Discharge Condition:
Vital signs stable.  Improved oral intake.  Hyponatremia 
improved.

 
Discharge Instructions:
You were admitted to the hospital for evaluation of dehydration 
and deconditioning.  You were given IV fluids and had multiple 
tests.  You had an MRI scan that showed some atrophy in an area 
of your brain known as the medulla.  This finding is likely 
related to long-term alcohol intake.  You are advised to stop 
drinking alcohol to prevent further damage to your brain.  In 
addition, we recommend that you follow-up with the behavioral 
neurologists.
 
It is also important that you eat more food and drink more 
nutrient shakes to get enough calories to support your body and 
not get dehydrated.  
  
You were also found to have fractures in your left foot.  The 
podiatrists saw you and recommended that you wear a boot and not 
put any weight on your left foot.  You have a follow-up 
appointment scheduled with them.
 
The following changes have been made to your medications.  
Change your metoprolol tartrate to 75 mg every 8 hours (three 
times per day).
Please take your iron supplement twice a day.
Please stop taking Lasix (furosemide), Cymbalta (duloxetine), 
and Ativan (lorazepam).
  
Please call your physician or return to the hospital if you have 
chest pain, shortness of breath, fevers, or other concerning 
symptoms.  
 
Followup Instructions:
___